US07696215B2
N-isoxazol-3-yl-4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide
Phosphorus oxychloride (0.11 ml) was added to a mixture of 4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid (0.30 g), 3-aminoisoxazole (0.12 ml) and pyridine (5 ml) and the resultant suspension was heated to 120° C. for 5 minutes in a microwave (Personal Chemistry Emrys Optimizer with 300 W magnetron). The mixture was evaporated. The residue was partitioned between ethyl acetate and saturated NaHCO3 solution. The organic phase was dried (magnesium sulphate), evaporated and the residue purified by column chromatography on a silica column using initially methylene chloride and then a 9:1 mixture of methylene chloride and methanol as eluent. There was thus obtained the title compound (0.14 g); NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 2.24 (s, 3H), 2.49 (m, 4H), 3.29 (m, 4H), 7.06 (d, 1H), 7.50 (d, 1H), 7.63 (m, 3H), 8.09 (m, 2H), 8.13 (s, 1H), 8.85 (d, 1H), 11.46 (s, 1H); Mass Spectrum: M+H+ 445.

reactant | Phosphorus oxychloride | 0.11 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid | 0.30 g | CC1=C(C=C(C(=O)O)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C | C21H22N4O3
reactant | 3-aminoisoxazole | 0.12 ml | NC1=NOC=C1 | C3H4N2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-isoxazol-3-yl-4-methyl-3-[6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzamide | 0.14 g | O1N=C(C=C1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C)=O | C24H24N6O3
